US04260619
The starting material is prepared as follows: To the solution of 0.5 g of 2-(2-aminopropyl)-5-pyridinol, 10 ml of methylene chloride and 10 ml of saturated aqueous sodium bicarbonate, 1.04 g of benzyl chloroformate are added while stirring at room temperature. After 12 hours the organic phase is separated, dried, evaporated and the residue crystallized from diethyl ether-hexane, to yield the bis-carbobenzyloxy-2-(2-aminopropyl)-5-pyridinol melting at 63°-65°.

reactant | 2-(2-aminopropyl)-5-pyridinol | 0.5 g | NC(CC1=NC=C(C=C1)O)C | C8H12N2O
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 1.04 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | bis-carbobenzyloxy-2-(2-aminopropyl)-5-pyridinol | C(=O)(OCC1=CC=CC=C1)C1=C(C(=NC=C1O)CC(C)N)C(=O)OCC1=CC=CC=C1 | C24H24N2O5
